US07749992B2
To a mixture of 5-Bromo-4-chloro-2-isopropoxycarbonylamino-benzoic acid methyl ester (2.52 g, 7.19 mmol) and cesium carbonate (4.68 g, 14.4 mmol) in DMF (35 ml) under nitrogen was added methyl 4-bromobutyrate (2.60 g, 14.4 mmol) dropwise. The reaction mixture was heated to 60° C. for 4 hours and then cooled to room temperature. The mixture was diluted with ethyl acetate (100 ml), and then washed with 0.1N HCl(aq) (100 ml) and brine (3×100 ml). The organic layer was dried over Na2SO4 and concentrated under reduced pressure. Purification by silica gel chromatography (gradient eluent, 0-20% ethyl acetate in hexane) provided 5-Bromo-4-chloro-2-[isopropoxycarbonyl-(3-methoxycarbonyl-propyl)-amino]-benzoic acid methyl ester (2.78 g, 86%) as oil. MS (ES+): 450, 452 (M+H).

reactant | 5-Bromo-4-chloro-2-isopropoxycarbonylamino-benzoic acid methyl ester | 7.19 mmol, 2.52 g | COC(C1=C(C=C(C(=C1)Br)Cl)NC(=O)OC(C)C)=O | C12H13BrClNO4
reactant | cesium carbonate | 14.4 mmol, 4.68 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl 4-bromobutyrate | 14.4 mmol, 2.60 g | BrCCCC(=O)OC | C5H9BrO2
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 5-Bromo-4-chloro-2-[isopropoxycarbonyl-(3-methoxycarbonyl-propyl)-amino]-benzoic acid methyl ester | 2.78 g, 86% | COC(C1=C(C=C(C(=C1)Br)Cl)N(CCCC(=O)OC)C(=O)OC(C)C)=O | C17H21BrClNO6
